US09328099B2
tert-Butyl 4-(3-amino-4-carbamoyl-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate
3-Amino-1H-pyrazole-4-carboxamide (0.80 g, 6.3 mmol) and tert-butyl 4-(cyanomethylene)piperidine-1-carboxylate (2.1 g, 9.5 mmol) were combined with acetonitrile (31 mL) in a pressure vessel. DBU (1.05 mL, 6.98 mmol) was then added at ambient temperature. The reaction vessel was sealed and the mixture was heated to 80° C. for 16 hours. The reaction mixture was then allowed to cool to ambient temperature before water (150 mL) was added. The aqueous mixture was extracted with EtOAc (2×). The organic layers were then combined and washed with brine, dried over anhydrous MgSO4, filtered, and concentrated in vacuo. The crude residue was adsorbed on silica gel in vacuo and purified by MPLC on silica gel (using a gradient elution of 75-100% EtOAc/hexanes) to afford the title compound, Intermediate #35-1.

reactant | 3-Amino-1H-pyrazole-4-carboxamide | 6.3 mmol, 0.80 g | NC1=NNC=C1C(=O)N | C4H6N4O
reactant | tert-butyl 4-(cyanomethylene)piperidine-1-carboxylate | 9.5 mmol, 2.1 g | C(#N)C=C1CCN(CC1)C(=O)OC(C)(C)C | C12H18N2O2
reactant | acetonitrile | 31 mL | C(C)#N | C2H3N
reactant | DBU | 6.98 mmol, 1.05 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | water | 150 mL | O | H2O
product | tert-Butyl 4-(3-amino-4-carbamoyl-1H-pyrazol-1-yl)-4-(cyanomethyl)piperidine-1-carboxylate | NC1=NN(C=C1C(N)=O)C1(CCN(CC1)C(=O)OC(C)(C)C)CC#N | C16H24N6O3
